US09193720B2
The potassium hydroxide (20.4 mg, 0.36 mmol) was added to a solution (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate (25 mg, 0.036 mmol) in ethanol (1 mL) and stirred for 3 h at 90° C. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep HPLC to afford (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetic acid 11 mg (47%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.41-7.39 (m, 2H), 7.23-7.22 (m, 1H), 7.17-7.13 (m, 2H), 7.02-7.01 (m, 2H), 6.96-6.94/6.86-6.84/6.80-6.77 (series m, 1H), 5.73 (br. s, 1H), 4.24 (t, J=6.6 Hz, 2H), 3.67-3.65 (m, 1H), 3.07 (t, J=6.6 Hz, 2H), 3.03-2.97 (m, 1H), 2.72-2.67 (m, 2H), 2.58-2.56 (m, 1H), 2.46 (s, 3H), 2.04 (s, 3H), 1.87-1.75 (m, 4H), 1.67-1.62 (m, 1H), 1.23 (d, J=6.6 Hz, 6H), 1.12 (s, 9H). UPLC (M+H)=645.4.

reactant | potassium hydroxide | 0.36 mmol, 20.4 mg | [OH-].[K+]
reactant | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 0.036 mmol, 25 mg | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)C1=NC(=NO1)C(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C40H51FN4O5
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetic acid | 11 mg, 47% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)C1=NC(=NO1)C(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C37H45FN4O5
